US05780437
(2- {2-(3,5-dimethylphenyl)-5- [1-methyl-1-(4-methyl-1H-imidazol-2-yl)-ethyl]-1H--indol-3-yl}-ethyl)-(4-pyridin-4-yl-butyl)-amine
Prepared essentially as described in EXAMPLE 3.2D starting from 2-{2-(3,5-dimethylphenyl)-5-[1-methyl-1-(4-methyl-1H-imidazol-2-yl)ethyl]-1H-indol-3-yl}ethylamine (97 mg) and using 4-pyridin-4-yl butyraldehyde to give the title compound (73 mg). m/e=520 (M+1)

reactant | 2-{2-(3,5-dimethylphenyl)-5-[1-methyl-1-(4-methyl-1H-imidazol-2-yl)ethyl]-1H-indol-3-yl}ethylamine | 97 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCN)C(C)(C=1NC=C(N1)C)C | C25H30N4
reactant | 4-pyridin-4-yl butyraldehyde | N1=CC=C(C=C1)CCCC=O | C9H11NO
product | (2- {2-(3,5-dimethylphenyl)-5- [1-methyl-1-(4-methyl-1H-imidazol-2-yl)-ethyl]-1H--indol-3-yl}-ethyl)-(4-pyridin-4-yl-butyl)-amine | 73 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCNCCCCC1=CC=NC=C1)C(C)(C=1NC=C(N1)C)C | C34H41N5
